US07358376B2
c) 1-(4-methylthiazol-2-yl)-propan-2-one
To a solution of 2,4 dimethylthiazole (2 g) in dry tetrahydrofuran (20 ml) at −70° C. under argon was added 1.6M n-butyllithium in hexanes (12 ml) dropwise, keeping the temperature below −70° C. After stirring at −60° C. for 30 minutes, N-methoxy-N-methylacetamide (1.9 ml) was added. The mixture was allowed to warm to ambient temperature and was then partitioned between water and ethyl acetate The organic phase was dried (MgSO4) and the solvent removed under reduced pressure to yield a yellow oil. This was purified by column chromatography using a isohexane to 40% ethyl acetate/isohexane gradient as the eluent to yield the product as a yellow oil (630 mg, 23%).

reactant | 2,4 dimethylthiazole | 2 g | CC=1SC=C(N1)C | C5H7NS
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | N-methoxy-N-methylacetamide | 1.9 ml | CON(C(C)=O)C | C4H9NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-methylthiazol-2-yl)-propan-2-one | 630 mg, 23% | CC=1N=C(SC1)CC(C)=O | C7H9NOS
